 *  source IXDD_HEMANT

*$
.SUBCKT IXDD414 VCC IN EN GND VCC OUT OUT1 GND   
ROUT1 OUT OUT1 1m
Q_Q5         N209276 N03676 0 BC107A 
C_C5         N02728 0  1uF  
R_R25         N242307 EN  10K  
R_R9         N02728 0  10k  
C_C3         VEE 0  100uF  
R_R24         0 TP  10K  
R_R26         0 N242307  724  
M_Q2         N04428 N209276 0 0 MNMOS           
R_R18         N01509 0  10k  
X_U4         VCC VEE 0 LM7805C
X_U6A         N336660 N336660 N295639 VEE 0 74ACT08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R12         OUT 0  10k  
R_R17         N82692 0  10k  
R_R34         GND 0  0.0001  
R_R16         IN N82692  100  
M_Q1         N04213 N209203 0 0 MNMOS           
C_C6         VSS 0  47uf  
M_Q3         N104168 N04428 VCC VCC MPFET           
R_R1         VCC N04213  10K  
R_R70         0 TEST  1k  
X_U22A         N295262 N295262 TEST VEE 0 74ACT00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R15         N161018 0  10k  
R_R38         N260557 VCC  10k  
X_U9A         N02728 N01509 N03600 VEE 0 74ACT00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N260557 N260557 N259753 VSS 0 74ACT08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R2         VCC N04428  10K  
C_C2         0 VCC  0.1uF  
D_D6         0 N02728 BZ-056 
C_C4         VCC 0  100uF  
R_R39         0 N260557  2k  
R_R3         N02959 N03030  5  
C_C7	     N02959 N03030  1nf
R_R35         0 VT  10k  
D_D1         N82834 VCC D1N4376 
D_D5         0 VSS BZ-056 
X_U10A         N01509 N161018 N02959 VEE 0 74ACT02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R19         0 N295262  10k  
R_R22         VCC N209276  5.0K  
R_R5         N03600 N03676  5
C_C8 	     N03600 N03676 1nf
R_R6         N03676 0  10k  
R_R13         HENABLE N02728  100  
D_D3         N02182 VCC D1N4376 
R_R7         N03600 0  10k  
X_U5A         TP N336660 VEE 0 74ACT04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         N242307 VT VSS 0 74ACT14 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R23         VCC N209203  5.0K  
R_R10         N02728 0  10k  
X_U7A         N82692 TP VEE 0 74ACT04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R33         GND 0  0.0001  
R_R27         0 N336660  10k  
X_U3A         VT N259753 HENABLE VSS 0 74ACT08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R37         0 TP  10k  
Q_Q6         N209203 N03030 0 BC107A 
R_R21         TEST N01509  0.0001  
R_R31         VCC VSS  100  
R_R4         N03030 0  10k  
R_R36         0 N259753  10k  
D_D2         0 N82834 D1N4376 
M_Q4         N104168 N04213 0 0 MNFET           
R_R11         N104168 OUT  0.01
R_R29         HENABLE N242974  10  
R_R28         0 N295639  10k  
X_U8A         N02728 N161018 VEE 0 74ACT04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
D_D4         0 N02182 D1N4376 
R_R8         N02959 0  10k  
C_C1         VCC 0  220uF  
X_U23A         N295639 N295639 N295262 VEE 0 74ACT00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R30         0 N242974  100k
.MODEL MNMOS NMOS
+LEVEL=3 
+W=4E-6 
+L=2E-6 
+ NSS = 0.00000E+00 VTO = 6.30000E-01 TOX = 1.90000E-08
+ XJ = 1.66632E-07 LD = 0.04000E-06 RSH = 6.40359E+02
+ NSUB = 1.82429E+16 NFS = 1.26963E+11 UO = 5.95254E+02
+ VMAX = 1.86907E+05 DELTA = 8.22502E-01 THETA = 5.77858E-02
+ ETA = 2.19310E-02 KAPPA = 2.60564E-01
+ CGSO = 7.263E-11 CGDO = 7.263E-11 CGBO = 1.11890E-10
+ CJ = 2.59E-04 CJSW = 2E-10 PB = 0.811
*+ MJ = 0.36 MJSW = 0.31 TPG = 1
*+ DW =-0.18000E-06 DL =-0.72500E-06
*+ XQC = 1
.MODEL MPFET PMOS(LEVEL=3 W=4e-3 L=0.01e-006)
.MODEL MNFET NMOS(LEVEL=3 W=4E-3 L=0.01e-006)
.MODEL BC107A NPN
.MODEL BZ-056 D RS=1.000E-3 CJO=1.000E-12 M=.3333 VJ=.75 ISR=7.539E-6 BV=5.009
+ IBV=43.11E-3 TT=144.3E-9
.MODEL D1N4376 D 
.ENDS
*$

.param RGOUT 10
.param CGOUT 200p
.subckt 74ACT00 in1 in2 out vcc v00 
B1 out1 v00 V=if( ((V(in1,v00)>1.4)&(V(in2,v00)>1.4)), 0, V(vcc,v00) )
R1 out1 out {RGOUT}
C1 out v00 {CGOUT}
.ends 74ACT00

.subckt 74ACT02 in1 in2 out vcc v00 
B1 out1 v00 V=if( ((V(in1,v00)>1.4)|(V(in2,v00)>1.4)), 0, V(vcc,v00) ) 
R1 out1 out {RGOUT}
C1 out v00 {CGOUT}
.ends 74ACT02

.subckt 74ACT04 in1 out vcc v00 
B1 out1 v00 V=if( (V(in1,v00)>1.4), 0, V(vcc,v00) )
R1 out1 out {RGOUT}
C1 out v00 {CGOUT}
.ends 74ACT04

.subckt 74ACT08 in1 in2 out vcc v00 
B1 out1 v00 V=if( ((V(in1,v00)>1.4)&(V(in2,v00)>1.4)), V(vcc,v00), 0 )
R1 out1 out {RGOUT}
C1 out v00 {CGOUT}
.ends 74ACT08

.subckt 74ACT14 in1 out vcc v00 
B1 out1 v00 V=if( (V(in1,v00)>1.4), 0, V(vcc,v00) )
R1 out1 out {RGOUT}
C1 out v00 {CGOUT}
.ends 74ACT14

* Model with hysteresis
.subckt 74ACT14x in1 out vcc v00 
E1 e1 v00 in1 v00 1
R1 e1 1 1k
R2 v00 1 2k
R3 1 2 4k
C3 2 v00 1p
R4 2 3 1k
B1 3 v00 V=LIMIT(0, IF( (V(1,v00)>1), (100*(V(1,v00)-1)), 0 ), V(vcc,v00) )
G2 v00 out1 3 v00 -1
RG2 out1 vcc 1
R1 out1 out {RGOUT}
C1 out v00 {CGOUT}
.ends 74ACT14

.subckt LM7805C in out v00
B1 out1 v00 V=LIMIT(0, if( (V(in,v00)>7), 5, (V(in,v00)-2)), 5)
R1 out1 out .1
.ends LM7805C
